US09029370B2
To a stirred solution of (RS)-2-[4-(benzhydrylidene-amino)-3-fluoro-phenyl]-morpholine-4-carboxylic acid tert-butyl ester (2.21 g) in methanol (40 ml) was added ammonium formate (4.54 g). The reaction mixture was degassed by bubbling argon into the mixture for several minutes. 10% Palladium on activated charcoal (255 mg) was then added and the reaction mixture was stirred at 60° C. for 1 hour. The reaction mixture was then filtered through celite and the filtrate was poured into 1 M aq. NaOH and extracted twice with EtOAc. The combined organic layers were dried over Na2SO4 and concentrated in vacuo. The residue was purified by flash column chromatography (silica gel; gradient: 0% to 30% EtOAc in hexanes) to afford (RS)-2-(4-amino-3-fluoro-phenyl)-morpholine-4-carboxylic acid tert-butyl ester (1.42 g, 74%) as a white solid. MS (ISP): 319.2 ([M+Na]+), 297.3 ([M+H]+), 241.2 ([M+H—C4H8]+), 197.2 ([M+H—C4H8—CO2]+).

reactant | (RS)-2-[4-(benzhydrylidene-amino)-3-fluoro-phenyl]-morpholine-4-carboxylic acid tert-butyl ester | 2.21 g | C(C)(C)(C)OC(=O)N1CC(OCC1)C1=CC(=C(C=C1)N=C(C1=CC=CC=C1)C1=CC=CC=C1)F | C28H29FN2O3
reactant | ammonium formate | 4.54 g | C(=O)[O-].[NH4+]
solvent | methanol | 40 ml | CO | CH4O
product | (RS)-2-(4-amino-3-fluoro-phenyl)-morpholine-4-carboxylic acid tert-butyl ester | 1.42 g, 74% | C(C)(C)(C)OC(=O)N1CC(OCC1)C1=CC(=C(C=C1)N)F | C15H21FN2O3
